US07612211B2
E. 2-{2-[2-(4-trifluoromethanesulfonyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-benzenesulfonyl}-ethanol
A mixture of 2-bromomethyl-5-[2-(2-hydroxy-ethanesulfonyl)-phenyl]-benzoimidazole-1-carboxylic acid tert-butyl ester (0.030 g, 0.0606 mmol), 4-trifluoromethanesulfonyl-phenol (0.027 g, 0.121 mmol), Na2CO3 (0.026 g, 0.242 mmol), and NaI (0.036 g, 0.242 mmol) in DMF (1 mL) was stirred for 12 hours at room temperature. The reaction mixture was concentrated under reduced pressure and the resulting residue was dissolved in CH2Cl2 (1 mL) followed by an addition of TFA (0.3 mL) and the mixture was stirred at rt for 3 hours. The reaction mixture was concentrated, and the residue was purified by chromatography (silica, CH2Cl2: MeOH, 5:1) to afford the title compound as a white solid. 1H NMR (400 MHz, CD3OD) δ (ppm): 8.17 (dd, 1H, J=8.0 Hz, J=1.2 Hz), 8.03 (d, 2H, J=8.8 Hz), 7.76-7.62 (m, 4H), 7.48-7.45 (m, 3H), 7.35 (d, 1H, J=8.4 Hz), 5.57 (s, 2H), 3.63 (t, 2H, J=6.4 Hz), 2.91 (t, 2H, J=6.6 Hz). Mass Spectrum (LCMS, ESI pos.) Calcd. For C25H23F3N3O6S2: 582.5 (M+MeCN+H), Found 582.2.

reactant | 2-bromomethyl-5-[2-(2-hydroxy-ethanesulfonyl)-phenyl]-benzoimidazole-1-carboxylic acid tert-butyl ester | 0.0606 mmol, 0.030 g | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC(=C2)C2=C(C=CC=C2)S(=O)(=O)CCO)CBr | C21H23BrN2O5S
reactant | 4-trifluoromethanesulfonyl-phenol | 0.121 mmol, 0.027 g | FC(S(=O)(=O)C1=CC=C(C=C1)O)(F)F | C7H5F3O3S
reactant | Na2CO3 | 0.242 mmol, 0.026 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaI | 0.242 mmol, 0.036 g | [Na+].[I-]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-{2-[2-(4-trifluoromethanesulfonyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-benzenesulfonyl}-ethanol | FC(S(=O)(=O)C1=CC=C(OCC2=NC3=C(N2)C=CC(=C3)C3=C(C=CC=C3)S(=O)(=O)CCO)C=C1)(F)F | C23H19F3N2O6S2
